US04374829
Prepare L-alanyl-L-proline amide by coupling t-Boc-L-alanine with L-proline amide by established methods employing dicyclohexylcarbodiimide in 4:1 methylene chloroform:DMF. Purify the intermediate t-Boc-L-Ala-L-Pro-NH2 by chromatography on LH-20 in methanol, then remove the t-Boc protecting group in 4 M HCl in ethyl acetate. Couple 0.5 g of this L-Ala-L-Pro-NH2.HCl in 10 ml of absolute ethanol neutralized with an equivalent of triethyl amine with 2.4 g of ethyl 2-oxo-4-phenylbutyrate using molecular sieves and 0.30 g of sodium cyanoborohydride as described in Example 41. In this present example the product is found in the chloroform extract at pH 8.5; concentrate it in vacuo, dissolve in 50% ethanol-water, chromatograph on Dowex 50 (H+) made up in 50% ethanol-water, and elute with 2% pyridine in this solvent. Combine the product fractions, and purify further by chromatography on LH-20 in methanol. Strip off the solvent in vacuo to obtain 0.40 g of N-(1-ethoxycarbonyl-3-phenylpropyl)-L-alanyl-L-proline amide as a mixture of diastereoisomers. The nmr spectrum (CDCl3) exhibits a triplet overlapping a doublet at 1.1-1.5 ppm (6H), a series of five multiplets in the range 1.5-4.7 ppm (15H) and a singlet at 7.17 ppm (5H). The mass spectrum on silylated material shows prominent peaks at m/e=477 (monosilyl derivative) and 519 (disilyl derivative).

reactant | L-alanyl-L-proline amide | N[C@@H](C)C(=O)N1[C@H](C(=O)N)CCC1 | C8H15N3O2
reactant | L-proline amide | N1[C@H](C(=O)N)CCC1 | C5H10N2O
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | methylene chloroform | C=ClC(Cl)Cl | C2H3Cl3
reactant | DMF | CN(C)C=O | C3H7NO
product | N-(1-ethoxycarbonyl-3-phenylpropyl)-L-alanyl-L-proline amide | 0.40 g | C(C)OC(=O)C(CCC1=CC=CC=C1)N[C@@H](C)C(=O)N1[C@H](C(=O)N)CCC1 | C20H29N3O4
